US04093626
(3RS, 5SR)-3-Phenylthiomethyl-4-oxa-1-azabicyclo[3.2.0]heptan- 7-one
(3RS, 5SR)-3-Bromomethyl-4-oxa-1-azabicyclo[3.2.0]heptan-7-one (210 mg, 1.0 mmole) in dry dimethylformamide (2 ml) was added dropwise to a stirred solution of sodium thiophenolate (1.2 mmole) in dry DMF (5 ml). The solution was stirred at room temperature with exclusion of moisture for 16 hours and was then diluted with ethyl acetate (30 ml). The solution was washed three times with water, dried, and the solvent removed to give a colourless oil. The oil was chromatographed on silica gel (15 g) using ethyl acetate/petroleum ether to give the title compound as a colourless gum (205 mg, 87%). (Found : M+, 235.06551. C12H13NO2S requires 235.06669. νmax (CHCl3) 1785 (β-lactam C=O)cm-1 δ p.p.m. (CDCl3) 2.6 - 3.5 [complex, 5H, C(6)H2, C(2)H, CH2SPh[; 4.10 [dd, J 11.5Hz, J' 6Hz, 1H, C(2)H]; 4.52 [quin., J 6Hz, 1H, C(3)H]; 5.43 [d, J 2.5Hz, 1H, C(5)H]; 7.48 (5H, aromatic H). m/e : 235 (M+, 100%), 192 (30), 123 (71).

reactant | (3RS, 5SR)-3-Bromomethyl-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | 1.0 mmole, 210 mg | BrCC1CN2C(CC2O1)=O | C6H8BrNO2
reactant | sodium thiophenolate | 1.2 mmole | C1(=CC=CC=C1)[S-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (3RS, 5SR)-3-Phenylthiomethyl-4-oxa-1-azabicyclo[3.2.0]heptan- 7-one | 205 mg, 87% | C1(=CC=CC=C1)SCC1CN2C(CC2O1)=O | C12H13NO2S
